US07683168B2
4-{3-[(R)-((2S,5R)-4-Benzyl-2,5-dimethyl-piperazin-1-yl)-(3-hydroxy-phenyl)-methyl]-benzoyl}-piperazine-1-carboxylic acid ethyl ester
The title compound was made by a procedure identical to that of Example 60 using 1.0 g of 4-{3-[(R)-((2S,5R)-2,5-dimethyl-piperazin-1-yl)-(3-hydroxy-phenyl)-methyl]-benzoyl}-piperazine-1-carboxylic acid ethyl ester and 0.44 g of benzaldehyde (4.16 mmol, 2 equiv.) to give 0.42 g of the title compound as a light pink solid. 1H NMR (300 MHz, d6-DMSO): □ 1.00-1.01 (d, J=5.5 Hz, 6H); 1.14-1.19 (t, 3H), 1.56-2.00 (m, 2H); 2.48 (s, 4H); 2.56-2.65 (m, 4H); 3.39-3.51 (m, 5H); 3.72-3.76 (dd, 1H); 4.00-4.07 (q, 2H); 4.96 (s, 1H); 6.62-6.70 (m, 3H); 7.09-7.63 (m, 10H); 9.37 (s, 1H). Calculated for C34H42N4O4.0.44 CH2Cl2: C, 68.02; H, 7.11; N, 9.21. Found: C, 68.00; H, 7.20; N, 9.12.

reactant | 4-{3-[(R)-((2S,5R)-2,5-dimethyl-piperazin-1-yl)-(3-hydroxy-phenyl)-methyl]-benzoyl}-piperazine-1-carboxylic acid ethyl ester | 1.0 g | C(C)OC(=O)N1CCN(CC1)C(C1=CC(=CC=C1)[C@H](C1=CC(=CC=C1)O)N1[C@H](CN[C@@H](C1)C)C)=O | C27H36N4O4
reactant | benzaldehyde | 4.16 mmol, 0.44 g, 2 equiv. | C(C1=CC=CC=C1)=O | C7H6O
product | 4-{3-[(R)-((2S,5R)-4-Benzyl-2,5-dimethyl-piperazin-1-yl)-(3-hydroxy-phenyl)-methyl]-benzoyl}-piperazine-1-carboxylic acid ethyl ester | 0.42 g | C(C)OC(=O)N1CCN(CC1)C(C1=CC(=CC=C1)[C@H](C1=CC(=CC=C1)O)N1[C@H](CN([C@@H](C1)C)CC1=CC=CC=C1)C)=O | C34H42N4O4
